US07576122B2
Step B. 1-[2-(2,2-Dimethylpropanoyl)-5-methoxy-1-benzothien-3-yl]-3,3-dimethylbutan-2-one
The title compound was prepared from 1-[3-(2-hydroxy-3,3-dimethylbutyl)-5-methoxy-1-benzothien-2-yl]-2,2-dimethylpropan-1-one from the Step A above using the procedure in Step B, Example 18. It was isolated as a white solid following RP-HPLC purification (70˜100% MeCN) and lyophilization. 1H NMR (CDCl3, 500 MHz) 7.72 (d, 8.9 Hz, 1H), 7.13 (dd, 2.4 & 8.8 Hz, 1H), 7.03 (d, 2.6 Hz, 1H), 4.40 (s, 2H), 3.88 (s, 3H), 1.41 (s, 9H), 1.35 (s, 9H). LC-MS: 4.27 min. (m/Z=369.2, 263.2, 347.3).

reactant | 1-[3-(2-hydroxy-3,3-dimethylbutyl)-5-methoxy-1-benzothien-2-yl]-2,2-dimethylpropan-1-one | OC(CC1=C(SC2=C1C=C(C=C2)OC)C(C(C)(C)C)=O)C(C)(C)C | C20H28O3S
solvent | MeCN | CC#N | C2H3N
product | 1-[2-(2,2-Dimethylpropanoyl)-5-methoxy-1-benzothien-3-yl]-3,3-dimethylbutan-2-one | CC(C(=O)C=1SC2=C(C1CC(C(C)(C)C)=O)C=C(C=C2)OC)(C)C | C20H26O3S
